* C:\Repositorio\SAPS_Gonzalez_C1_2025\Parciales\Parcial Ever\Design Files\SPICE Files\LTspice\ACAnalysis.asc
* Generated by LTspice 24.1.4 for Windows.
VIN IN 0 SINE(0 4.95 780m) AC 1
V2 Vp 0 5
V3 Vn 0 -5
V1 Vref 0 0
X§STAGE1 IN OUT Vp Vn Vref StageA_LowPassSallenKey_LT6004

* block symbol definitions
.subckt StageA_LowPassSallenKey_LT6004 IN OUT V+ V- REF
R2 N002 N001 267k
R1 N001 IN 121k
C2 N002 REF 43n
C1 OUT N001 100n
X§U1 N002 OUT V+ V- OUT LT6003
.ends StageA_LowPassSallenKey_LT6004

.AC DEC 100 800m 500
.save V(*?*) I(*?*)
* If you're having trouble with simulation try the following:\n \n- Ensure that LTspice circuit folder is unzipped.  LTspice won't \nbe able to locate subcircuits if the folders are still zipped.\n \n- Update LTspice - devices that have been recently added to LTspice\nwon't be available unless you update by clicking Tools -> Sync Release.
.lib LTC5.lib
.backanno
.end
